US06720320B2
5-ethoxycarbonyl-2-(4-hydroxybenzo(b)furan-2-yl)-1,3,4-oxadiazole
5-Ethoxycarbonyl-2-(4-methoxybenzo(b)furan-2-yl)-1,3,4-oxadiazole (5.0 g) was dissolved in dichloromethane (40 ml) and boron tribromide (4.0 ml) was added dropwise with stirring under ice-cooling. Then, the mixture was stirred at room temperature for 5 hr, and the reaction mixture was poured into ice water. The mixture was stirred at it was at room temperature for 1 hr. The crystals were collected by filtration and dissolved in chloroform. The solution was washed with saturated aqueous solution of sodium hydrogencarbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (2.5 g) as yellow crystals.

reactant | 5-Ethoxycarbonyl-2-(4-methoxybenzo(b)furan-2-yl)-1,3,4-oxadiazole | 5.0 g | C(C)OC(=O)C1=NN=C(O1)C1=CC2=C(O1)C=CC=C2OC | C14H12N2O5
reactant | boron tribromide | 4.0 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5-ethoxycarbonyl-2-(4-hydroxybenzo(b)furan-2-yl)-1,3,4-oxadiazole | 2.5 g | C(C)OC(=O)C1=NN=C(O1)C1=CC2=C(O1)C=CC=C2O | C13H10N2O5
